US05747489
In analogy to Example 1, the reaction of 5-(3-methoxy-4-trifluoromethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one with 4-nitrobenzyl chloride ("C") gives 3-(4-nitrobenzyl)-5-(3-methoxy-4-trifluoromethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one.

reactant | 5-(3-methoxy-4-trifluoromethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one | COC=1C=C(C=CC1OC(F)(F)F)C1=NNC(SC1CC)=O | C13H13F3N2O3S
reactant | 4-nitrobenzyl chloride | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
product | 3-(4-nitrobenzyl)-5-(3-methoxy-4-trifluoromethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one | [N+](=O)([O-])C1=CC=C(CN2C(SC(C(=N2)C2=CC(=C(C=C2)OC(F)(F)F)OC)CC)=O)C=C1 | C20H18F3N3O5S
